US06288082B1
4-(1H-Benzotriazol-5-ylamino)-6,7-diethoxy-quinoline-3-carbonitrile
A solution of 1.07 mg (3.87 mM) of 4-chloro-6,7-diethoxy-quinoline-3-carbonitrile and 675 mg (5.00 mM) of 5-Aminobenzotriazole in 15 ml of 2-methoxyethanol was refluxed for 3 hours. To the warm solution was added 1 ml of 1M sodium carbonate and the sample was heated for 5 minutes at 100° C., then poured into 300 ml of ice water. The solution was made acetic by addition of concentrated HCl and the solid was collected, washed with water followed by ether and dried under vacuum at 80° C. The solid was taken up into 200 ml of methanol and 500 μl of 5 N sodium hydroxide and boiled for 20 minutes. To this heterogeneous mixture was added 100 ml of glacial acetic acid and the volume was reduced to a total of 100 ml by boiling. To the room temperature mixture, 500 ml of ice cold water was added and the solid was collected, washed with water followed by ether and dried under vacuum at 80° C. to yield 738 mg of Name as a brown solid: mass spectrum (electrospray, m/e): M+H 375.0, mp=Decomposed at 115° C.

reactant | 4-chloro-6,7-diethoxy-quinoline-3-carbonitrile | 3.87 mM, 1.07 mg | ClC1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N | C14H13ClN2O2
reactant | 5-Aminobenzotriazole | 5.00 mM, 675 mg | NC1=CC2=C(NN=N2)C=C1 | C6H6N4
reactant | sodium carbonate | 1M, 1 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | HCl | Cl | ClH
solvent | 2-methoxyethanol | 15 ml | COCCO | C3H8O2
product | 4-(1H-Benzotriazol-5-ylamino)-6,7-diethoxy-quinoline-3-carbonitrile | N1N=NC2=C1C=CC(=C2)NC2=C(C=NC1=CC(=C(C=C21)OCC)OCC)C#N | C20H18N6O2
